US05110956
[{1-(6-Methyl-1,3-benzodioxol-5-yl)butyl}thio]acetic acid
A solution of 5.6 g of (6-methyl-1,3-benzodioxol-5-yl)butan-1-ol, 4.8 g of mercaptoacetic acid and a catalytic amount of D-10-camphorsulfonic acid in 60 ml of benzene was heated under reflux for 3 hours, followed by the addition of ethyl acetate. The obtained mixture was washed with water and extracted with a lN aqueous solution of sodium hydroxide. The aqueous layer was washed with ethyl acetate, acidified with lN hydrochloric acid and extracted with chloroform. The organic layer was dried over magnesium sulfate and distilled to remove the solvent. The obtained residue was chromatographed over silica gel column and eluted with chloroform to obtain a colorless crystal. This crystal was recrystallized from isopropyl ether/hexane to obtain 4.1 g of the title compound as a colorless prismatic crystal.

reactant | (6-methyl-1,3-benzodioxol-5-yl)butan-1-ol | 5.6 g | CC=1C(=CC2=C(OCO2)C1)C(CCC)O | C12H16O3
reactant | mercaptoacetic acid | 4.8 g | SCC(=O)O | C2H4O2S
reactant | D-10-camphorsulfonic acid | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 60 ml | C1=CC=CC=C1 | C6H6
product | [{1-(6-Methyl-1,3-benzodioxol-5-yl)butyl}thio]acetic acid | 4.1 g | CC=1C(=CC2=C(OCO2)C1)C(CCC)SCC(=O)O | C14H18O4S
